US05362878
N-(6-Methylthioquinolin-5-yl)-2-octanyl-1,3-dithiane-2-carboxamide
5-Amino-6-methylthioquinoline, prepared as described in Example 34, was coupled with 2-octanyl-1,3-dithiane-2-carboxylic acid, prepared by treatment of 1,3-dithiane-2-carboxylic acid with sodiumhexamethyldisilazide and octanyl bromide, according to Example 25 to give the title compound.

reactant | 5-Amino-6-methylthioquinoline | NC1=C2C=CC=NC2=CC=C1SC | C10H10N2S
reactant | 2-octanyl-1,3-dithiane-2-carboxylic acid | C(CCCCCCC)C1(SCCCS1)C(=O)O | C13H24O2S2
reactant | 1,3-dithiane-2-carboxylic acid | S1C(SCCC1)C(=O)O | C5H8O2S2
reactant | sodiumhexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | octanyl bromide | C(CCCCCCC)Br | C8H17Br
product | N-(6-Methylthioquinolin-5-yl)-2-octanyl-1,3-dithiane-2-carboxamide | CSC=1C(=C2C=CC=NC2=CC1)NC(=O)C1(SCCCS1)CCCCCCCC | C23H32N2OS3
